US06320050B1
A solution of freshly prepared lithium diisopropylamide (23 mL of a 0.32M stock solution, 7.13 mmol) cooled to −78° C. was treated with (4-bromo-phenyl)-acetic acid methyl ester (1.48 g, 6.48 mmol) in tetrahydrofuran/1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (16.2 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. Iodomethylcyclopentane (1.49 g, 7.13 mmol) was then added in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (2 mL). The reaction mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 18 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (10 mL). This mixture was poured into water (100 mL) and extracted with ethyl acetate (3×50 mL). The organics were washed with a saturated aqueous lithium chloride solution (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 95/5 hexanes/ethyl acetate) afforded 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid methyl ester (1.60 g, 79.3%) as a clear oil: EI-HRMS m/e calcd for C15H19O2Br (M+) 310.0568 found 310.0564.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-bromo-phenyl)-acetic acid methyl ester | 6.48 mmol, 1.48 g | COC(CC1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | Iodomethylcyclopentane | 7.13 mmol, 1.49 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 16.2 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid methyl ester | 1.60 g, 79.3% | COC(C(CC1CCCC1)C1=CC=C(C=C1)Br)=O | C15H19BrO2
